US03992408
In the manner given in Example 28, 8-trifluoromethyl-1-(phthalimidomethyl)-6-phenyl-4H-imidazo[1,2-a][1,4]benzodiazepine is reacted at room temperature with hydrazine hydrate, dissolved in ethanol, to give 8-trifluoromethyl-1-(aminomethyl)-6-phenyl-4H-imidazo[1,2-a][1,4]benzodiazepine.

reactant | 8-trifluoromethyl-1-(phthalimidomethyl)-6-phenyl-4H-imidazo[1,2-a][1,4]benzodiazepine | FC(C=1C=CC2=C(C(=NCC=3N2C(=CN3)CN3C(C=2C(C3=O)=CC=CC2)=O)C2=CC=CC=C2)C1)(F)F | C27H17F3N4O2
reactant | hydrazine hydrate | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 8-trifluoromethyl-1-(aminomethyl)-6-phenyl-4H-imidazo[1,2-a][1,4]benzodiazepine | FC(C=1C=CC2=C(C(=NCC=3N2C(=CN3)CN)C3=CC=CC=C3)C1)(F)F | C19H15F3N4
